US06548499B1
(6,7-Dichloro-3-pyridin-2-yl-quinoxalin-2-yl)-(1-phenyl-4-piperdin-1-yl-butyl)-amine
To a solution 2,6,7-trichloro-3-pyridin-2-yl-quinoxaline (0.31 g) and alpha-phenyl-1-piperdine-butylamine dihydrochloride (0.31 g) in toluene (25 mL) was added triethylamine (0.50 mL). The resulting mixture was refluxed under nitrogen atmosphere for 36 hours. After refluxing, the reaction mixture was cooled, filtered, and concentrated under vacuum. The residue was purified by flash chromatography (silica gel, 1:9 methanol/dichloromethane) to give a yellow solid. Recrystallization from methanol and water gave the product as a fluffy yellow powder (0.32 g); mp 125-127° C.

reactant | 2,6,7-trichloro-3-pyridin-2-yl-quinoxaline | 0.31 g | ClC1=NC2=CC(=C(C=C2N=C1C1=NC=CC=C1)Cl)Cl | C13H6Cl3N3
reactant | alpha-phenyl-1-piperdine-butylamine dihydrochloride | 0.31 g | Cl.Cl.C1(=CC=CC=C1)C(CCCN1CCCCC1)N
reactant | triethylamine | 0.50 mL | C(C)N(CC)CC | C6H15N
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | (6,7-Dichloro-3-pyridin-2-yl-quinoxalin-2-yl)-(1-phenyl-4-piperdin-1-yl-butyl)-amine | 0.32 g | ClC=1C=C2N=C(C(=NC2=CC1Cl)NC(CCCN1CCCCC1)C1=CC=CC=C1)C1=NC=CC=C1 | C28H29Cl2N5
